US07129237B2
8-(trifluoromethyl)-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine
To a solution of 8-(trifluoromethyl)-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (1.5 g, 6.1 mmol) in THF (11 mL) at room temperature was added lithium aluminum hydride in THF (28 mL, 28 mmol) over 10 minutes. Once the addition was completed, the reaction was heated to 68° C. After 24 hours, additional lithium aluminum hydride in THF was added (12.3 mmol) over five minutes. After 3 hours, the reaction mixture was cooled to 0° C., and then quenched with water, 15% NaOH, and an additional portion of water. After filtering off the gray precipitate and rinsing with ethyl acetate, the solvent was removed from the filtrate. The resulting solid was then redissolved in ethyl acetate and transferred to a separatory funnel and washed with water (3×), dried with magnesium sulfate, filtered and concentrated to give a yellow solid. Further purification (15% ammonia in 2M solution of ethanollethyl acetate) yielded 0.918 g of desired product (69%).

reactant | 8-(trifluoromethyl)-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 6.1 mmol, 1.5 g | FC(C1=CC2=C(C(NCC(N2)=O)=O)C=C1)(F)F | C10H7F3N2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | THF | 28 mmol, 28 mL | C1CCOC1 | C4H8O
product | 8-(trifluoromethyl)-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | 0.918 g, 69% | FC(C1=CC2=C(CNCCN2)C=C1)(F)F | C10H11F3N2
